US06900215B2
2-(5-Bromo-2-fluorophenyl)-4-methylpyridine was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine by the method of Example 32. Purification by chromatography on silica gel eluting with dichloromethane containing 1% methanol, then crystallisation from ethyl acetate/isohexane, gave 3-[4-fluoro-3-(4-methylpyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a yellow powder: δH (400 MHz, CDCl3) 8.87 (1H, d, J 7), 8.58 (1H, d, J 5), 8.24 (1H, dd, J 7 and 2), 8.12 (1H, s), 7.71 (1H, s), 7.53-7.58 (1H, m), 7.38 (1H, dd, J 11 and 8), 7.26 (1H, d, J 7), 7.16 (1H, d, J 5), 2.46 (3H, s); m/z (ES+) 373 (M++H).

reactant | 2-(5-Bromo-2-fluorophenyl)-4-methylpyridine | BrC=1C=CC(=C(C1)C1=NC=CC(=C1)C)F | C12H9BrFN
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[4-fluoro-3-(4-methylpyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=NC=CC(=C2)C | C19H12F4N4
